US07348359B2
(5-Bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanol (1.88 g, 4.6 mmol) was dissolved in dichloromethane (5 ml) and added to a suspension of pyridinium chlorochromate (1.1 g, 5.1 mmol) in dichloromethane (20 ml). After stirring at ambient temperature under and atmosphere of nitrogen for 4 h the reaction was diluted with ether (50 mL) and filtered through a plug of florosil. The remaining solvent was evaporated to yield (5-bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanone as yellow crystals (1.75 g, 94%). 1H NMR (250 MHz, CDCl3): δ 7.81 (dd, 1H, J=3.1, J=6.9), 7.62 (m, 1H), 7.33 (d, 1H, J=2.5), 7.28 (d, 1H, J=2.5), 7.02 (dd, 1H, J=11.2, J=9.4), 3.67 (q, 2H, J=6.9), 3.34 (m, 1H), 2.95 (m, 1H), 1.31 (s, 3H), 1.28 (s, 6H), 1.25 (s, 3H), 1.02 (t, 3H, J=6.9). MS [EI+] 407, 409 (M+H)+.

reactant | (5-Bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanol | 4.6 mmol, 1.88 g | BrC=1C=CC(=C(C1)C(O)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCC)F | C21H26BrFO2
reactant | pyridinium chlorochromate | 5.1 mmol, 1.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | (5-bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanone | 1.75 g, 94% | BrC=1C=CC(=C(C1)C(=O)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCC)F | C21H24BrFO2
